US05872115
Step 1): A mixture of 5-dimethylamino-2-nitrobenzoic acid [J. Med. Chem., 24, 742 (1981)](9.0 g, 40 mmol), 4-aminomethyl-1-diphenylmethylpiperidine (12.0 g, 40 mmol), 1-(3-dimethylamino-propyl)-3-ethylcarbodiimido hydrochloride (WSC) (8.0 g, 40 mmol) and 4-dimethylaminopyridine (DMAP) (5 g, 40 mmol) in dichloromethane (400 ml) was stirred at 0° C. for 1 hour, then at room temperature for 3 days. The reaction mixture was washed with 1N HCl, then water. The organic layer was dried (MgSO4) and concentrated. The residue was purified by column chromatography on silica gel (5% methanol in dichloromethane) to give 5-dimethylamino-2-nitro-N-[(1-diphenylmethyl-piperidin-4-yl)methyl]benzamide (47%) as yellow solid: mp 200° C.

reactant | 5-dimethylamino-2-nitrobenzoic acid | 40 mmol, 9.0 g | CN(C=1C=CC(=C(C(=O)O)C1)[N+](=O)[O-])C | C9H10N2O4
reactant | 4-aminomethyl-1-diphenylmethylpiperidine | 40 mmol, 12.0 g | NCC1CCN(CC1)C(C1=CC=CC=C1)C1=CC=CC=C1 | C19H24N2
catalyst | 4-dimethylaminopyridine | 40 mmol, 5 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 400 ml | ClCCl | CH2Cl2
product | 5-dimethylamino-2-nitro-N-[(1-diphenylmethyl-piperidin-4-yl)methyl]benzamide | 47% | CN(C=1C=CC(=C(C(=O)NCC2CCN(CC2)C(C2=CC=CC=C2)C2=CC=CC=C2)C1)[N+](=O)[O-])C | C28H32N4O3
